US04189542
a-cyano-β-methyl-4-methoxy cinnamic acid methyl ester;
a-cyano-β-methyl-4-methoxy cinnamic acid butyl ester; a-cyano-β-phenyl cinnamic acid ethyl ester; a-cyano-β-phenyl cinnamic acid isooctyl ester; and the like.

reactant | a-cyano-β-methyl-4-methoxy cinnamic acid butyl ester | C(CCC)OC(C(=C(C1=CC=C(C=C1)OC)C)C#N)=O | C16H19NO3
reactant | a-cyano-β-phenyl cinnamic acid ethyl ester | C(C)OC(C(=C(C1=CC=CC=C1)C1=CC=CC=C1)C#N)=O | C18H15NO2
reactant | a-cyano-β-phenyl cinnamic acid isooctyl ester | C(CCCCC(C)C)OC(C(=C(C1=CC=CC=C1)C1=CC=CC=C1)C#N)=O | C24H27NO2
product | a-cyano-β-methyl-4-methoxy cinnamic acid methyl ester | COC(C(=C(C1=CC=C(C=C1)OC)C)C#N)=O | C13H13NO3
